US05541349
1. Preparation of (N-t-butylamino)(dimethyl)(2,4-dimethyl-2,4-pentadien-1-yl)silane
To a solution of 0.612 g (3.69 mmol) of (N-t-butylamino)(chloro)dimethylsilane in 50 mL of THF was added 0.500 g (3.72 mmol) of potassium 2,4-dimethylpentadienide (prepared in a manner similar to that reported in J. Am. Chem. Soc. 1978, 100, 3258). The reaction mixture was stirred overnight. The solvent was removed, the residue was extracted with pentane and filtered. The pentane was removed in vacuo to give the product as a pale yellow oil. The yield was 0.733 g, 88.2 percent. 1H NMR (C6D6) δ 5.64 (s, 1H), 5.01 (s, 1H), 4.97 (s, 1H), 1.88(s, 2H), 1.85(s, 3H), 1.76(s, 3H), 1.09(s, 9H), 0.17 (s, 6H). 13C NMR (C6D6) δ 142.7, 136.5, 125.3, 113.2, 49.5, 34.0, 27.9, 26.5, 24.6, 2.8.

reactant | (N-t-butylamino)(chloro)dimethylsilane | 3.69 mmol, 0.612 g | C(C)(C)(C)N[Si](C)(C)Cl | C6H16ClNSi
reactant | potassium 2,4-dimethylpentadienide | 3.72 mmol, 0.500 g | CC(=[CH-])C=C(C)C.[K+]
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | (N-t-butylamino)(dimethyl)(2,4-dimethyl-2,4-pentadien-1-yl)silane | C(C)(C)(C)N[Si](CC(=CC(=C)C)C)(C)C | C13H27NSi
